US04695575
A mixture of 7.7 parts of 1-[(4-fluorophenyl)methyl]-2-[[1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methyl]-1H-benzimidazole and 150 parts of a hydrobromic acid solution 48% in water was stirred overnight at 80° C. The reaction mixture was evaporated and water was added to the residue. The whole was treated with ammonium hydroxide and the product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography (HPLC) over silica gel using a mixture of hexane, trichloromethane and methanol (45:45:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 2.5 parts (35%) of 4-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]phenol; mp. 130.3° C. (504).

reactant | 1-[(4-fluorophenyl)methyl]-2-[[1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methyl]-1H-benzimidazole | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCC2=CC=C(C=C2)OC | C29H32FN3O
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 4-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]phenol | 35% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCC2=CC=C(C=C2)O | C28H30FN3O
